US09315602B2
(ii) Methyl(p-tolyl)cyclopentadienyl(2,7-diphenyl-3,6-di-tert-butylfluorenyl)methane
Under a nitrogen atmosphere, a solution of n-butyllithium in hexane (6.3 ml, 10.2 mmol) was dropped into a solution of 2,7-diphenyl-3,6-di-tert-butylfluorene (4.0 g, 9.3 mmol) in dry tetrahydrofuran (50 ml) at −10° C., and then the product was stirred at room temperature for 20 hours. Then, 6-methyl-6-(p-tolyl)fulvene (1.9 g, 10.2 mmol) was dropped into this solution at −10° C., and the product was stirred at room temperature for 2 hours to induce a reaction. After the reaction was terminated, dilute aqueous hydrochloric acid was added thereto, the product was subjected to extraction with hexane, the organic layer was subsequently washed with water and then dehydrated with anhydrous magnesium sulfate, and then the solvent was distilled off to produce a light brown solid. The produced solid was recrystallized with methanol to obtain 5.1 g of an objective. The analytical values were as follows.

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 10.2 mmol, 6.3 ml | CCCCCC | C6H14
reactant | Benzyl(p-chlorophenyl)methylene(cyclopentadienyl)(2,7-diphenyl-3,6-di-tert-butylfluorene) | 9.3 mmol, 4.0 g | C(C1=CC=CC=C1)C(=C1C(=C(C(=C2C=C3C=C(C(=CC3=C12)C(C)(C)C)C1=CC=CC=C1)C1C=CC=C1)C1=CC=CC=C1)C(C)(C)C)C1=CC=C(C=C1)Cl | C52H47Cl
reactant | 6-methyl-6-(p-tolyl)fulvene | 10.2 mmol, 1.9 g | CC(=C1C=CC=C1)C1=CC=C(C=C1)C | C14H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Methyl(p-tolyl)cyclopentadienyl(2,7-diphenyl-3,6-di-tert-butylfluorenyl)methane | CC(C1=C(C(=CC=2C3=CC(=C(C=C3CC12)C1=CC=CC=C1)C(C)(C)C)C(C)(C)C)C1=CC=CC=C1)(C1C=CC=C1)C1=CC=C(C=C1)C | C47H48
